US07220862B2
2-Benzyloxycarbonylamino-3-(2-methoxy-pyrimidin-5-yl)-acrylic acid methyl ester
To a suspension of potassium t-butoxide (1.23 g) in methylene chloride (70 mL, −30° C.) was added a solution of N-benzyloxycarbonyl-α-phosphonoglycine trimethyl ester (3.63 g) in methylene chloride (15 mL). The resulting solution was stirred 5 min and treated with the 2-methoxy-pyrimidine-5-carbaldehyde (1.0 g) in methylene chloride (15 mL). After stirring for 1.5 h, the reaction was warmed to 0° C. and stirred 1 h. The reaction was quickly poured into a sep funnel containing ethyl acetate and water. Brine was added to aid in separation of the layers. The aqueous was extracted with ethyl acetate (3×) which were in turn washed with brine, dried over magnesium sulfate, and concentrated. The crude product was recrystallized from hot methanol to give 1.4 g of pure material. Mass spec.: 344.10 (MH)+.

reactant | potassium t-butoxide | 1.23 g | CC(C)([O-])C.[K+]
reactant | 2-methoxy-pyrimidine-5-carbaldehyde | 1.0 g | COC1=NC=C(C=N1)C=O | C6H6N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | 2-Benzyloxycarbonylamino-3-(2-methoxy-pyrimidin-5-yl)-acrylic acid methyl ester | 1.4 g | COC(C(=CC=1C=NC(=NC1)OC)NC(=O)OCC1=CC=CC=C1)=O | C17H17N3O5
